US04652553
By use of the procedure described in the literature [Kosower, E. M. and Weinstein, S., J. Am. Chem. Soc., 78 (1956) 4347-4354; Davis, M., J. Chem. Soc., (1962) 178-181] cholesteryl p-toluenesulfonate and 1,6-hexanediol were condensed in boiling dioxane to give cholest-5-en-3β-yl 6-hydroxyhexyl ether in 52% yield as colorless plates (from hexane), m.p. 75.9°-81° C.

reactant | cholesteryl p-toluenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)OC2CCC3(C4CCC5(C(C4CC=C3C2)CCC5C(C)CCCC(C)C)C)C | C34H52O3S
reactant | 1,6-hexanediol | C(CCCCCO)O | C6H14O2
reactant | dioxane | O1CCOCC1 | C4H8O2
solvent | hexane | CCCCCC | C6H14
product | cholest-5-en-3β-yl 6-hydroxyhexyl ether | 52% yield | OCCCCCCO[C@@H]1CC2=CC[C@H]3[C@@H]4CC[C@H]([C@@H](CCCC(C)C)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C | C33H58O2
